US07560481B2
2-tetrahydro-2H-pyran-4-ylethanol
To 15 mL of tetrahydrofuran (THF) at 0° C. was added LiAlH4 (0.28 g, 7.3 mmol). This mixture was stirred for 10 min then the ethyl tetrahydropyran-4-yl-acetate (Combi-Blocks Inc., 0.50 g, 2.9 mmol) was added. The reaction was stirred for 5 min at 0° C. then was allowed to warm to ambient temperature and was stirred for 90 min. The reaction was quenched with excess NaHSO4.10H2O and was stirred for 60 min. The mixture was filtered through Celite. The filtrate was concentrated to give the title compound which was carried on without further purification. MS (DCI/NH3) m/z 131 (M+H)+.

reactant | LiAlH4 | 7.3 mmol, 0.28 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl tetrahydropyran-4-yl-acetate | 2.9 mmol, 0.50 g | O1CCC(CC1)CC(=O)OCC | C9H16O3
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-tetrahydro-2H-pyran-4-ylethanol | O1CCC(CC1)CCO | C7H14O2
